US07709598B2
A reaction vessel was charged with 10.1 g of triethylamine, 19.9 g of phenacylbromide and 200 g of methanol, and they were stirred at room temperature for 6 hours. By evaporating methanol from this solution, 29.9 g of a white crystalline matter were obtained. This was washed with diethyl ether, then dried under reduced pressure, to obtain 24.9 g of an intermediate triethylphenacyl ammonium bromide (yield: 83%).

reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | phenacylbromide | 19.9 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | methanol | 200 g | CO | CH4O
product | triethylphenacyl ammonium bromide | yield: 83% | [Br-].C(C)[N+](CC(=O)C1=CC=CC=C1)(CC)CC | InChI=1S/C14H22NO.BrH/c1-4-15(5-2,6-3)12-14(16)13-10-8-7-9-11-13;/h7-11H,4-6,12H2,1-3H3;1H/q+1;/p-1
